US04933355
The reaction described in Preparation 26 was repeated, but using 2.3 g of diethylamine, 4 g of ethyl 2-chlorothiazole-4-carboxylate, 4.2 g of triethylamine, and 15 ml of dimethylformamide, giving ethyl 2-diethylaminothiazole-4-carboxylate as a pale yellow oil.

reactant | diethylamine | 2.3 g | C(C)NCC | C4H11N
reactant | ethyl 2-chlorothiazole-4-carboxylate | 4 g | ClC=1SC=C(N1)C(=O)OCC | C6H6ClNO2S
reactant | triethylamine | 4.2 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | ethyl 2-diethylaminothiazole-4-carboxylate | C(C)N(C=1SC=C(N1)C(=O)OCC)CC | C10H16N2O2S
